US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.62 g) and 2-(chloromethyl)-4-methylpyridine hydrochloride (0.46 g) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-N-({1-[(4-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.53 g) was obtained.

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.62 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
reactant | 2-(chloromethyl)-4-methylpyridine hydrochloride | 0.46 g | Cl.ClCC1=NC=CC(=C1)C
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-({1-[(4-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.53 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=NC=CC(=C1)C)C1=CC=C(C=C1)C(C)C | C38H40N4O2
